US08242153B2
In analogy to example 1d (S)-2-amino-5-(4-chloro-phenyl)-5-methoxy-pentan-1-ol was reacted with cyanogen bromide to give (S)-4-[3-(4-chloro-phenyl)-3-methoxy-propyl]-4,5-dihydro-oxazol-2-ylamine (mixture of epimers). White solid. MS (ISP): 271.2 ([{37Cl}M+H]+), 269.2 ([{35Cl}M+H]+).

reactant | (S)-2-amino-5-(4-chloro-phenyl)-5-methoxy-pentan-1-ol | N[C@H](CO)CCC(OC)C1=CC=C(C=C1)Cl | C12H18ClNO2
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-[3-(4-chloro-phenyl)-3-methoxy-propyl]-4,5-dihydro-oxazol-2-ylamine | ClC1=CC=C(C=C1)C(CC[C@@H]1N=C(OC1)N)OC | C13H17ClN2O2
